US07723369B2
2-(4-Bromo-benzyl)-1-(4-Nitro-phenyl)-4-(4-trifluoromethyl-phenyl)-1H-imidazole (2.5 g, 5 mmol) was reduced to amine and was reacted with methyl bromoacetate following general procedures D & E to give {4-[2-(4-bromo-benzyl)-4-(4-trifluoromethyl-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester.

reactant | 2-(4-Bromo-benzyl)-1-(4-Nitro-phenyl)-4-(4-trifluoromethyl-phenyl)-1H-imidazole | 5 mmol, 2.5 g | BrC1=CC=C(CC=2N(C=C(N2)C2=CC=C(C=C2)C(F)(F)F)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C23H15BrF3N3O2
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | {4-[2-(4-bromo-benzyl)-4-(4-trifluoromethyl-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester | COC(CNC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)Br)=O | C26H21BrF3N3O2
